US05650411
2,4-Dihydro-4-[2-[4-(4-methoxyphenyl)-1-piperazinyl]-5-pyrimidinyl]-3H-1,2,4-triazol-3-one (0.019 mol) and N,N-dimethylformamide (200 ml) were stirred. A solution of sodium bis(trimethylsilyl)amide in tetrahydrofuran (1M) (21 ml) was added dropwise under N2 and the mixture was stirred for 30 minutes at room temperature. 2-Bromo-1-(4-chlorophenyl)-1-butanone (0.021 mol) dissolved in a little N,N-dimethylformamide was added dropwise and the mixture was stirred for 3 hours at room temperature. The mixture was poured into water and extracted with dichloromethane. The organic layer was washed with water, dried and evaporated. The residue was crystallized from 1-propanol. The precipitate was faltered off and dried in vacuo at 75° C., yielding 6 g (60%) of (±)-2-[1 -(4-chlorobenzoyl)propyl]-2,4-dihydro-4-[2-[4-(4-methoxyphenyl)-1-piperazinyl]-5-pyrimidinyl]-3H-1,2,4-triazol-3-one; mp. 184.6° C. (comp. 8).

reactant | 2,4-Dihydro-4-[2-[4-(4-methoxyphenyl)-1-piperazinyl]-5-pyrimidinyl]-3H-1,2,4-triazol-3-one | 0.019 mol | COC1=CC=C(C=C1)N1CCN(CC1)C1=NC=C(C=N1)N1C(NN=C1)=O | C17H19N7O2
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-Bromo-1-(4-chlorophenyl)-1-butanone | 0.021 mol | BrC(C(=O)C1=CC=C(C=C1)Cl)CC | C10H10BrClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 1M, 21 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | (±)-2-[1 -(4-chlorobenzoyl)propyl]-2,4-dihydro-4-[2-[4-(4-methoxyphenyl)-1-piperazinyl]-5-pyrimidinyl]-3H-1,2,4-triazol-3-one | 6 g, 60% | ClC1=CC=C(C(=O)C(CC)N2N=CN(C2=O)C=2C=NC(=NC2)N2CCN(CC2)C2=CC=C(C=C2)OC)C=C1 | C27H28ClN7O3
